US07626021B2
400 mg (0.83 mmol) of 3-(2-methoxy-phenyl)-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridine, 265 mg (1.00 mmol) of 5-bromo-3-chloro-2-hydroxy-benzoic acid methyl ester and 34 mg (41 μmol) of dichloro[1,1′-bis(diphenylphoshino)ferrocene]palladium(II) dichloromethane adduct were placed in a vial. 8 mL of acetonitrile and 8 mL of a saturated aqueous solution of sodium bicarbonate were added. The vial was closed and the mixture heated to 75° C. for 17 h. The crude mixture was distributed between ethyl acetate and 10% aqueous citric acid. The aqueous layer was extracted twice with ethyl acetate. The combined organic phases were washed with brine, dried over sodium sulfate and evaporated. The crude was purified by flash chromatography on silica gel using a gradient of ethyl acetate containing 15% of methanol in hexanes to afford 241 mg (0.46 mmol, 55%) of 3-chloro-2-hydroxy-5-[3-(2-methoxy-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-benzoic acid as a brown oil. 1H NMR (500 MHz, DMSO-d6) δ 8.89 (d, 1H), 8.36 (d, 1H), 8.12 (d, 1H), 8.07 (d, 1H), 7.64 (dd, 1H), 7.50 (ddd, 1H), 7.24 (d(d), 1H), 7.11 (ddd, 1H), 5.85 (s, 2H), 3.84 (s, 3H), 3.70 (t, 2H), 0.86 (t, 2H), −0.08 (s, 9H), MS: m/z 526.1 (M+H+), 548.1 (M+Na+).

reactant | 3-(2-methoxy-phenyl)-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridine | 0.83 mmol, 400 mg | COC1=C(C=CC=C1)C1=NN(C2=NC=C(C=C21)B2OC(C(O2)(C)C)(C)C)COCC[Si](C)(C)C | C25H36BN3O4Si
reactant | 5-bromo-3-chloro-2-hydroxy-benzoic acid methyl ester | 1.00 mmol, 265 mg | COC(C1=C(C(=CC(=C1)Br)Cl)O)=O | C8H6BrClO3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
catalyst | dichloro[1,1′-bis(diphenylphoshino)ferrocene]palladium(II) dichloromethane adduct | 41 μmol, 34 mg | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 8 mL | C(C)#N | C2H3N
product | 3-chloro-2-hydroxy-5-[3-(2-methoxy-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-benzoic acid | 0.46 mmol, 241 mg, 55% | ClC=1C(=C(C(=O)O)C=C(C1)C=1C=C2C(=NC1)N(N=C2C2=C(C=CC=C2)OC)COCC[Si](C)(C)C)O | C26H28ClN3O5Si
